US09102662B2
(3-Amino-1H-indazol-5-yl)-(3,5-difluoro-phenyl)-methanone [(IX), R1=R2=R3=H, R=3,5-difluorophenyl]
A mixture of 5-(3,5-difluoro-benzoyl)-2-fluoro-benzonitrile (2.05 g, 7.84 mmol) and hydrazine hydrate (0.73 mL, 15.7 mmol) in dry tetrahydrofuran (100 mL) was stirred at room temperature for 2 hours. The reaction mixture was treated with 37% hydrochloric acid (1.3 mL, 15.7 mmol) for 30 min and then the volatiles were partially evaporated. The reaction mixture was then diluted with water (100 mL) and aqueous NH3 was added to reach neutral pH. The resulting solid was filtered, washed thoroughly with water and dried under vacuum at 60° C. The title compound was obtained as yellow solid (1.75 g, 80% yield).

reactant | 5-(3,5-difluoro-benzoyl)-2-fluoro-benzonitrile | 7.84 mmol, 2.05 g | FC=1C=C(C(=O)C=2C=CC(=C(C#N)C2)F)C=C(C1)F | C14H6F3NO
reactant | hydrazine hydrate | 15.7 mmol, 0.73 mL | O.NN
reactant | hydrochloric acid | 15.7 mmol, 1.3 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (3-Amino-1H-indazol-5-yl)-(3,5-difluoro-phenyl)-methanone | NC1=NNC2=CC=C(C=C12)C(=O)C1=CC(=CC(=C1)F)F | C14H9F2N3O
